US05705499
2-Cyano-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl -6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one
A solution of 2-chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (78 mg, 0.2 mmol), Sodium cyanide impregnated alumina (2 g/4 g, 0.44 g, 4.5 mmol), and tetrakis(triphenylphosphine)palladium(0) (45 mg, 0.04 mmol) in 5 mL of toluene was heated at 100° C. under argon for 8 hours. The reaction mixture was filtered, and the collected solid was washed with ethyl acetate. The filtrate was concentrated to give a yellow oil, which was purified by flash chromatography (elution with isopropannol-hexanes) and recrystallization (ethyl acetate-hexanes) to afford 11.5 mg (15%) of the title compound, m.p. 149°-150° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.2 mmol, 78 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC=NC=C3)=O)C | C21H20ClN5O
reactant | Sodium cyanide | 4.5 mmol, 2 g | [C-]#N.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyano-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl -6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one | 11.5 mg, 15% | C(#N)C=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC=NC=C3)=O)C | C22H20N6O
